US06316444B1
Step B: 2-[1-(1-(Benzyloxycarbonyl)-4-(tert-butyloxycarbonyl)-piperazin-2-yl)ethylamino]-4-(benzimidazol-1-yl)-5-bromopyrimidine
A solution of 2-chloro-4-(benzimidazol-1-yl)-5-bromopyrimidine (100 mg) and 1-benzyloxycarbonyl-2-(1-aminoethyl)-4-tert-butyloxycarbonylpiperazine, diastereomer 1 (EXAMPLE 14 Step D; 115 mg), in 10 mL of toluene was heated to 100° C. and stirred overnight (14 h) at this temperature. The mixture was then cooled and diluted with 20 mL of EtOAc and 30 mL of water. The phases were separated and the aqueous phase was extracted with 2×20 mL of EtOAc. The combined organics were dried over MgSO4 and concentrated. The residue was purified by flash chromatography, eluting with 20:1 hexanes-acetone to provide 133 mg of the title compound. Mass spectrum (ESI) 638.4 (M+1).

reactant | 2-chloro-4-(benzimidazol-1-yl)-5-bromopyrimidine | 100 mg | ClC1=NC=C(C(=N1)N1C=NC2=C1C=CC=C2)Br | C11H6BrClN4
reactant | 1-benzyloxycarbonyl-2-(1-aminoethyl)-4-tert-butyloxycarbonylpiperazine | C(C1=CC=CC=C1)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C(C)N | C19H29N3O4
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | water | 30 mL | O | H2O
product | 2-[1-(1-(Benzyloxycarbonyl)-4-(tert-butyloxycarbonyl)-piperazin-2-yl)ethylamino]-4-(benzimidazol-1-yl)-5-bromopyrimidine | 133 mg | C(C1=CC=CC=C1)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C(C)NC1=NC=C(C(=N1)N1C=NC2=C1C=CC=C2)Br | C30H34BrN7O4
